US07781478B2
To a suspension of t-BuONO (8.01 mL, 67.5 mmol) and CuCl2 (7.26 g, 54 mmol) in acetonitrile (50 mL), at 61° C. with gentle stirring, is added 2-nitro-4-trifluoromethoxyaniline (10.0 g, 45.0 mmol) portionwise. The mixture is stirred at this temperature for 2 h after the addition. The solvent is removed on a rotorvap and the residue is treated with HCl (6 N, 200 mL), and extracted with dichloromethane (3×100 mL). The extracts are combined, dried over anhydrous Na2SO4, and passed through a short silica gel pad. The solvent is removed and the residue is added to a suspension of benzyl cyanoacetate (7.88 g, 45 mmol) and K2CO3 (12.42 g, 90 mmol) in DMF (100 mL). This mixture is then stirred at 45° C. overnight and poured into ice-water (700 mL), and extracted with dichloromethane (3×100 mL). The organics are dried over anhydrous Na2SO4 and again passed through a short silica gel pad, eluting with ethyl acetate. The solvent is then replaced with EtOH (160 mL), acetic acid (16 mL) and water (16 mL), and the reaction mixture is hydrogenated over 5% Pd/C (2.80 g) at 50 psi overnight. The mixture is filtered over Celite and the volatiles are removed in vacuo. The residue is dissolved in dichloromethane (200 mL), washed with Na2CO3 (2 M, 2×50 mL), water (2×50 mL), brine (50 mL) and dried over anhydrous Na2SO4. The crude product, obtained after the removal of the solvent, is chromatographed (silica gel, DCM/Hexanes, 1/1) to provide 6-trifluoromethoxyindole (5.70 g, 63% based on 2-nitro-4-trifluoromethoxyaniline).

reactant | 2-nitro-4-trifluoromethoxyaniline | 45.0 mmol, 10.0 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
reactant | benzyl cyanoacetate | 45 mmol, 7.88 g | C(#N)CC(=O)OCC1=CC=CC=C1 | C10H9NO2
reactant | K2CO3 | 90 mmol, 12.42 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-trifluoromethoxyindole | 5.70 g, 63% | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
